US07723331B2
b) 3-(1-Methyl-piperidin-4-yloxy)-benzylamine
3-(1-Methyl-piperidin-4-yloxy)-benzonitrile (1.20 g, 5.55 mmol) was dissolved (0.05 M) in NH3 in MeOH (111 ml). Hydrogenation was performed using a Raney-Ni 30×4 mm CatCart (H-Cube, 50 bar, 50° C., 1 ml/min). Evaporation in vacuo yielded a light orange oil. Yield: 1.16 g (95%). 1H NMR (400 MHz, CDCl3) δ 7.25-7.17 (m, 1H), 8-6.83 (m, 2H), 6.78-6.73 (dd, J=7.67 Hz, J=2.05 Hz), 4.32 (m, 1H), 3.80 (s, 2H), δ 2.69 (m, 2H), 2.36-2.25 (m, 5H), 2.05-1.95 (m, 2H), 1.88-1.72 (m, 4H). MS (ESI+) 221.1 (M+1H+).

reactant | 3-(1-Methyl-piperidin-4-yloxy)-benzonitrile | 5.55 mmol, 1.20 g | CN1CCC(CC1)OC=1C=C(C#N)C=CC1 | C13H16N2O
solvent | NH3 | N | H3N
solvent | MeOH | 111 ml | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 3-(1-Methyl-piperidin-4-yloxy)-benzylamine | CN1CCC(CC1)OC=1C=C(CN)C=CC1 | C13H20N2O
